US07507736B2
e) 1-(4-trifluoromethyl-benzenesulfonyl)-piperazine hydrochloride
To a solution of N-tert-butyloxycarbonylpiperazine (1.00 g, 5.37 mmol) in dichloromethane were added triethylamine (1.05 eq, 0.78 ml) and 4-(trifluoromethyl)-benzenesulfonyl chloride (1.02 eq, 1.345 g). The mixture was stirred overnight at room temperature, diluted with dichloromethane, washed with aqueous sodium bicarbonate solution, water, dried over magnesium sulfate and evaporated. The resulting white solid was dissolved in ethyl acetate and a 5 M solution of hydrogen chloride in ethyl acetate added dropwise. The mixture was stirred 3 h at 50° C. The precipitated solid was filtered and dried to afford the title compound (558 mg, 31%) which was used without further purification. MS (m/z): 295.4 (M+H)+.

reactant | N-tert-butyloxycarbonylpiperazine | 5.37 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | triethylamine | 0.78 ml, 1.05 eq | C(C)N(CC)CC | C6H15N
reactant | 4-(trifluoromethyl)-benzenesulfonyl chloride | 1.345 g, 1.02 eq | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(4-trifluoromethyl-benzenesulfonyl)-piperazine hydrochloride | 558 mg, 31% | Cl.FC(C1=CC=C(C=C1)S(=O)(=O)N1CCNCC1)(F)F | InChI=1S/C11H13F3N2O2S.ClH/c12-11(13,14)9-1-3-10(4-2-9)19(17,18)16-7-5-15-6-8-16;/h1-4,15H,5-8H2;1H
